US06184242B2
A mixture containing 4-(4-fluorobenzoyl)-nitrobenzene (1.96 9, 8 mmol), morpholine (0.84 g, 9.6 mmol), and potassium carbonate (1.33 g, 9.6 mmol) in dimethyl sulfoxide (15 mL) was heated to 100-110° C. for 12 hours. The reaction mixture was cooled to room temperature and diluted with cold water, and filtered. The crude product was washed several times with water and dried to give 4-(4-morpholinobenzoyl)-nitrobenzene (2.28 g, 91%), m.p. 173-175° C., and was used in the next step without further purification.

reactant | 4-(4-fluorobenzoyl)-nitrobenzene | 8 mmol | FC1=CC=C(C(=O)C2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C13H8FNO3
reactant | morpholine | 9.6 mmol, 0.84 g | N1CCOCC1 | C4H9NO
reactant | potassium carbonate | 9.6 mmol, 1.33 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 15 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-(4-morpholinobenzoyl)-nitrobenzene | 2.28 g, 91% | O1CCN(CC1)C1=CC=C(C(=O)C2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C17H16N2O4
